US07384967B2
To a solution of 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (90 mg, 0.25 mmol) in THF (10 mL) was added pyrrole-1-carboxamidine (54 mg, 0.50 mmol) and DIEA (90 μL). The reaction mixture was heated 60° C. for 3 h and concentrated. The crude product was purified by flash chromatography [silica, DCM:ethyl acetate (50:50 to 10:90)] to yield 1-(2-cyclopentanecarbonyl-4-methyl-phenyl)-3-(4-guanidinomethyl-thiazol-2-yl)-urea (88 mg, 88%).

reactant | 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 0.25 mmol, 90 mg | NCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C18H22N4O2S
reactant | pyrrole-1-carboxamidine | 0.50 mmol, 54 mg | N1(C=CC=C1)C(=N)N | C5H7N3
reactant | DIEA | 90 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-cyclopentanecarbonyl-4-methyl-phenyl)-3-(4-guanidinomethyl-thiazol-2-yl)-urea | 88 mg, 88% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC=C(N1)CNC(=N)N | C19H24N6O2S
